US08754242B2
A solution of (1RS,2SR,6RS,7SR)-4-(5-bromo-2-ethylphenyl)-1,7-dimethyl-10-oxatricyclo[5.2.1.02,6]dec-8-en-3,5-dione (1.63 g, 4.3 mmol) in methanol (200 ml) is hydrogenated at 3.5 bar over 5% palladium on carbon for 1 hour and 30 minutes at room temperature. The catalyst is removed by filtration through diatomaceous earth and the solvent is evaporated under reduced pressure. Trituration with diethyl ether gives (1RS,2SR,6RS,7SR)-4-(5-bromo-2-ethylphenyl)-1,7-dimethyl-10-oxatricyclo[5.2.1.02,6]decane-3,5-dione.

reactant | (1RS,2SR,6RS,7SR)-4-(5-bromo-2-ethylphenyl)-1,7-dimethyl-10-oxatricyclo[5.2.1.02,6]dec-8-en-3,5-dione | 4.3 mmol, 1.63 g | BrC=1C=CC(=C(C1)C1C(C2C3(C=CC(C2C1=O)(O3)C)C)=O)CC | C19H19BrO3
solvent | methanol | 200 ml | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | (1RS,2SR,6RS,7SR)-4-(5-bromo-2-ethylphenyl)-1,7-dimethyl-10-oxatricyclo[5.2.1.02,6]decane-3,5-dione | BrC=1C=CC(=C(C1)C1C(C2C3(CCC(C2C1=O)(O3)C)C)=O)CC | C19H21BrO3
